US05122523
2.1 g of sodium hydride (60% in oil) was suspended in DMF, and 10 g of ethyl diethylphosphonoacetate was dropwise added thereto at -20° C. under argon atmosphere. The mixture was stirred at room temperature for 30 minutes, and then 9.2 g of benzyl bromide was added thereto at 0° C. The mixture was stirred at 50° C. overnight. The reaction solution was poured into a saturated ammonium chloride aqueous solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium chloride aqueous solution, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/acetone=6/1) to obtain 5.7 g of ethyl 2-diethylphosphono-3-phenylpropionate as colorless oily substance.

reactant | sodium hydride | 2.1 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 10 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | benzyl bromide | 9.2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 2-diethylphosphono-3-phenylpropionate | 5.7 g | C(C)OP(=O)(OCC)C(C(=O)OCC)CC1=CC=CC=C1 | C15H23O5P
